US04088771
This example illustrates another process embodiment of the invention wherein an alkyl chloroformate is used as one of the reagents. In the example, 0.8 g. of methyl chloroformate is added over a five minute period to a stirring mixture of 2 g. 1-methyl-2-amino-5-phenyl-2-imidazoline hydrobromide, 1.4 g. sodium bicarbonate, and 20 ml. acetone held at 0° C. After addition is complete, the mixture is allowed to warm to room temperature and then stirred for 16 hours at room temperature. The mixture is distilled to a low volume and 50 ml. of water is then added. The mixture is filtered and the precipitate collected and washed with water and then dried affording 1-methyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole which is then further purified by recrystallization from chloroform.

reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | 1-methyl-2-amino-5-phenyl-2-imidazoline hydrobromide | Br.CN1C(=NCC1C1=CC=CC=C1)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-methyl-4,5-dihydro-5-phenyl-2-methoxycarbonylaminoimidazole | CN1C(=NCC1C1=CC=CC=C1)NC(=O)OC | C12H15N3O2
